US04011236
2-(Thiazole-4-carboxamido)benzimidazole
Substitution of an equivalent amount of other heterocyclic acid chlorides, e.g., pyridine 2-, 3-, and 4-carboxylic acid chlorides; thenoyl 2- and 3-chlorides, coumariloyl chloride for thiazole-4-carboxylic acid chloride provides a convenient synthesis for: 2-(pyridine-2-carboxamido)benzimidazole, 2-(pyridine-3-carboxamido)benzimidazole, 2-(pyridine-4-carboxamido)benzimidazole, 2-(thiophene-2-carboxamido)benzimidazole, 2-(coumariloyl)aminobenzimidazole, m.p. 293°- 295° C. λmax. 327 mμ, E11%cm. 1024 and 2-nicotinamidoaminobenzimidazole, λmax. 319 mμ, E1cm.1% 429.

reactant | 2-(pyridine-2-carboxamido)benzimidazole | N1=C(C=CC=C1)C(=O)NC=1NC2=C(N1)C=CC=C2 | C13H10N4O
reactant | 2-(pyridine-3-carboxamido)benzimidazole | N1=CC(=CC=C1)C(=O)NC=1NC2=C(N1)C=CC=C2 | C13H10N4O
reactant | 2-(pyridine-4-carboxamido)benzimidazole | N1=CC=C(C=C1)C(=O)NC=1NC2=C(N1)C=CC=C2 | C13H10N4O
reactant | 2-(thiophene-2-carboxamido)benzimidazole | S1C(=CC=C1)C(=O)NC=1NC2=C(N1)C=CC=C2 | C12H9N3OS
reactant | 2-nicotinamidoaminobenzimidazole | C(C1=CN=CC=C1)(=O)NNC=1NC2=C(N1)C=CC=C2 | C13H11N5O
product | 2-(Thiazole-4-carboxamido)benzimidazole | S1C=NC(=C1)C(=O)NC=1NC2=C(N1)C=CC=C2 | C11H8N4OS
